US07705053B2
Production of 4-(5-carbamoyl-2-methoxybenzoylamino)benzoic acid ethyl ester (Compound 1-3-30)
The captioned compound was synthesized from 6-methoxyisophthalamic acid and ethyl 4-amino-benzoate by the same procedure as in the manufacturing method described in step C of Example 1-3-1.

reactant | 6-methoxyisophthalamic acid | COC1=CC=C(C=C1C(=O)O)C(=O)N | C9H9NO4
reactant | ethyl 4-amino-benzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
product | 4-(5-carbamoyl-2-methoxybenzoylamino)benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC(C1=C(C=CC(=C1)C(N)=O)OC)=O)=O | C18H18N2O5
